US09328096B2
5-bromo-2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-3-fluorobenzamide
The title compound was prepared according to the method described for Preparation 16 using 5-amino-1-phenyl-1H-pyrazole-3-carbonitrile (Preparation 53) and 5-bromo-2-chloro-3-fluorobenzoic acid.

reactant | 5-amino-1-phenyl-1H-pyrazole-3-carbonitrile | NC1=CC(=NN1C1=CC=CC=C1)C#N | C10H8N4
reactant | 5-bromo-2-chloro-3-fluorobenzoic acid | BrC=1C=C(C(=C(C(=O)O)C1)Cl)F | C7H3BrClFO2
product | 5-bromo-2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-3-fluorobenzamide | BrC=1C=C(C(=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C#N)C1)Cl)F | C17H9BrClFN4O
